US07632838B2
To a stirred solution of benzyl {(2S)-2-[(tert-butoxycarbonyl)amino]propyl}[(2R)-2-hydroxypropyl]carbamate (1.95 g, 5.32 mmol) and diisopropylethylamine (1.85 mL, 10.64 mmol) in anhydrous dichloromethane (110 mL) was added dimethylaminopyridine (135 mg) and methane sulfonyl chloride (0.535 mL, 6.92 mmol). The mixture was stirred at room temperature for 1 hour. Reaction was complete as determined by TLC. The reaction mixture was concentrated and purified using flash column chromatography. (1R)-2-([(benzyloxy)carbonyl]{(2S)-2-[(tert-butoxycarbonyl)amino]propyl}amino)-1-methylethyl methanesulfonate was obtained in 97.0% yield (2.29 g) as light yellow oil.

reactant | benzyl {(2S)-2-[(tert-butoxycarbonyl)amino]propyl}[(2R)-2-hydroxypropyl]carbamate | 5.32 mmol, 1.95 g | C(C)(C)(C)OC(=O)N[C@H](CN(C(OCC1=CC=CC=C1)=O)C[C@@H](C)O)C | C19H30N2O5
reactant | diisopropylethylamine | 10.64 mmol, 1.85 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | 135 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | methane sulfonyl chloride | 6.92 mmol, 0.535 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
product | (1R)-2-([(benzyloxy)carbonyl]{(2S)-2-[(tert-butoxycarbonyl)amino]propyl}amino)-1-methylethyl methanesulfonate | 97.0% yield | CS(=O)(=O)O[C@@H](CN(C[C@H](C)NC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C | C20H32N2O7S
